US08877778B2
To a stirred solution of 4-(7-fluoro-benzofuran-4-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (0.97 g, 3.06 mmol) in dichloromethane (23 ml) was added at room temperature hydrochloric acid solution (4M in dioxane, 11.5 ml, 45.8 mmol) and the reaction mixture was allowed to stir for 1.5 h. The reaction mixture was evaporated, the residue triturated with diethyl ether (50 ml) and MeOH (1 ml), the precipitate was collected by filtration, washed with diethyl ether and dried to yield 4-(7-fluoro-benzofuran-4-yl)-1,2,3,6-tetrahydro-pyridine hydrochloride as light yellow solid (0.7 g, 90%), MS (ISP) m/z=218.2 [(M+H)+], mp 202° C.

reactant | 4-(7-fluoro-benzofuran-4-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 3.06 mmol, 0.97 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC=C(C2=C1C=CO2)F | C18H20FNO3
reactant | hydrochloric acid | 45.8 mmol, 4M, 11.5 ml | Cl | ClH
solvent | dichloromethane | 23 ml | ClCCl | CH2Cl2
product | 4-(7-fluoro-benzofuran-4-yl)-1,2,3,6-tetrahydro-pyridine hydrochloride | 0.7 g, 90% | Cl.FC1=CC=C(C=2C=COC21)C=2CCNCC2 | InChI=1S/C13H12FNO.ClH/c14-12-2-1-10(9-3-6-15-7-4-9)11-5-8-16-13(11)12;/h1-3,5,8,15H,4,6-7H2;1H
